US05908840
N-[2-(Dimethylamino)ethyl]-11-oxo-2-(3-pyridinyl)-1H-Pyrido[2,1-b]quinazoline-6-carboxamide
A mixture of N-[2-(dimethylamino)ethyl]-2-iodo-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide (100 mg), 3-pyridinyl-boronic acid (225.41 mg), tetrakis(tri-phenylphosphine)palladium(0) (66.22 mg) and sodium carbonate (0.57 ml of 2 M (1.15 mmol)) was heated in an oil bath at 120° C.-125° C. for 45 minutes. The reaction mixture was cooled to room temperature, diluted with water (30 ml), and extracted with CH2Cl2 (3×30 ml). Combined organic phases were washed with brine (50 ml), dried with MgSO4, filtered and concentrated in vacuo. The residue was purified on SiO2 (50 g; gradient elution with 10-30% MeOH/CHCl3) to give the desired product (66 mg).

reactant | N-[2-(dimethylamino)ethyl]-2-iodo-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxamide | 100 mg | CN(CCNC(=O)C1=CC=CN2C1=NC1=CC=C(C=C1C2=O)I)C | C17H17IN4O2
reactant | 3-pyridinyl-boronic acid | 225.41 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 1.15 mmol, 2 M, 0.57 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 30 ml | O | H2O
product | N-[2-(Dimethylamino)ethyl]-11-oxo-2-(3-pyridinyl)-1H-Pyrido[2,1-b]quinazoline-6-carboxamide | 66 mg | CN(CCNC(=O)C1=CC=CN2C1=NC=1C=CC(CC1C2=O)C=2C=NC=CC2)C | C22H23N5O2
